US07592457B2
5-chloro-7-dimethylamino-3-methyl-3-phenyl-1H-quinoline-2,4-dione
To a solution of 5,7-dichloro-3-methyl-3-phenyl-1H-quinoline-2,4-dione (1.00 g, 3.12 mmol) in MeCN (10 mL) were added K2CO3 (0.65 g, 4.68 mmol), triethylamine (0.65 mL, 4.68 mmol), and dimethylamine hydrochloride (0.35 g, 7.80 mmol) at room temperature. The reaction mixture was then heated for 10 hours at reflux temperature. After the reaction completed, the solvent was removed. The residue was diluted with 1N HCl solution and extracted with ethyl acetate (100 mL×2). The organic phase was dried over magnesium sulfate and concentrated in vacuo. The crude was purified by a column chromatography on silica gel to give the objective compound (0.67 g, 65%): 1H NMR (200 MHz, CDCl3) δ 1.89 (s, 3H, CH3), 2.64 (s, 6H, 2NCH3), 6.29 (d, J=2.03 Hz, 1H, ArH), 6.49 (d, J=2.03 Hz, 1H, ArH), 7.23-7.33 (m, 5H, ArH), 9.13 (br s, 1H, NH); m.p. 224-226° C.; MS(EI) m/e 328 [M+], 313, 196, 132; HRMS m/e cacld. for C18H17N2O2Cl 328.0979, found 328.0979.

reactant | 5,7-dichloro-3-methyl-3-phenyl-1H-quinoline-2,4-dione | 3.12 mmol, 1.00 g | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)(C1=CC=CC=C1)C)=O | C16H11Cl2NO2
reactant | K2CO3 | 4.68 mmol, 0.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triethylamine | 4.68 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 7.80 mmol, 0.35 g | Cl.CNC
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 5-chloro-7-dimethylamino-3-methyl-3-phenyl-1H-quinoline-2,4-dione | 0.67 g, 65% | ClC1=C2C(C(C(NC2=CC(=C1)N(C)C)=O)(C1=CC=CC=C1)C)=O | C18H17ClN2O2
